US06916921B2
(20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-carbaldehyde was treated with pyrrolidine and sodium tris(acetoxy)borohydride as described in Example 9d). (20S)-20-[(pyrrolidin-1-yl)ethyl]-4,4-dimethyl-5α-pregna-8,14-dien-3β-ol was isolated as a white solid.

reactant | (20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-carbaldehyde | O[C@@H]1C(C2CCC=3C4=CC[C@H]([C@H](CC=O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C25H38O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | sodium tris(acetoxy)borohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | (20S)-20-[(pyrrolidin-1-yl)ethyl]-4,4-dimethyl-5α-pregna-8,14-dien-3β-ol | N1(CCCC1)CC[C@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O)(C)C | C29H47NO
